US06121460
1.835 kg dried (S)-N-acetyl-indoline-2-carboxylic acid-(1R,2R)-1-(4-nitrophenyl)-2-amino-1,3-propanediol salt was dosed in portions to 2.64 1 2N HCl aq (1.13 eq HCl) with heating to 60° C., followed by 30 minutes' stirring at 60-70° C. After cooling to 20° C., filtration on an FIBA, washing with 2×0.7 1 water and drying, 871 g white (S)-N-acetyl-indoline-2-carboxylic acid was obtained, corresponding to a yield of 96.5%. Enantiomeric excess=99.9% (chiral HPLC).

reactant | (S)-N-acetyl-indoline-2-carboxylic acid-(1R,2R)-1-(4-nitrophenyl)-2-amino-1,3-propanediol salt | 1.835 kg | [N+](=O)([O-])C1=CC=C(C=C1)[C@H]([C@@H](CO)N)O.C(C)(=O)N1[C@@H](CC2=CC=CC=C12)C(=O)O
reactant | HCl | 1.13 eq | Cl | ClH
product | (S)-N-acetyl-indoline-2-carboxylic acid | 871 g, yield of 96.5% | C(C)(=O)N1[C@@H](CC2=CC=CC=C12)C(=O)O | C11H11NO3
